US04751295
7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-[3-(1-methylpyrrolidinio)-1-propen-1-yl]-3-cephem-4-carboxylate (I-1A)
To a solution of diphenylmethyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate (IX-1) (Z/E=2/1, 150 mg, 0.21 mmole) in ethyl acetate (2 ml) was added a solution of 1-methylpyrrolidine (36 mg, 0.42 mmole) in ethyl acetate (1 ml) in one portion with stirring. The mixture was stirred for 15 minutes and diluted with isopropyl ether (10 ml) to form a precipitate, which was collected by filtration. A mixture of the solid (130 mg), formic acid (1 ml) and concentrated HCl (0.1 ml) was stirred at room temperature. After 1 hour, the reaction mixture was concentrated under reduced pressure, diluted with water (20 ml) and filtered. The aqueous solution was passed through a reverse phase column (the packing of PrepPAK-500/C18 cartridge, 100 ml), eluting with water and 10% CH3OH. The desired fractions were collected, and concentrated in vacuo to a small volume and freeze-dried to give 13 mg (12%) of the title compound (I-1A) (Z/E=1/1), melting at >280° C. (dec.).

reactant | diphenylmethyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate | 0.21 mmole, 150 mg | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CCI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C28H25IN6O5S2
reactant | 1-methylpyrrolidine | 0.42 mmole, 36 mg | CN1CCCC1 | C5H11N
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | isopropyl ether | 10 ml | C(C)(C)OC(C)C | C6H14O
product | 7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-[3-(1-methylpyrrolidinio)-1-propen-1-yl]-3-cephem-4-carboxylate | 13 mg, 12% | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC[N+]2(CCCC2)C)C(=O)[O-])C1=O)=NOC | C20H25N7O5S2
